US07498337B2
2-pyridinesulfonyl chloride
Under ice-cooling, 2-mercaptopyridine (2.0 g) was added to sulfuric acid (50 mL) and the mixture was stirred. Sodium hypochlorite solution (chlorine content 5%, 126 mL) was added dropwise over 1.5 hr, and the mixture was further stirred at the same temperature for 30 min. The reaction mixture was diluted with water (100 mL), and extracted with dichloromethane. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound as a colorless oil (yield 2.45 g, 77%).

reactant | 2-mercaptopyridine | 2.0 g | SC1=NC=CC=C1 | C5H5NS
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | Sodium hypochlorite | 126 mL | Cl[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | 2-pyridinesulfonyl chloride | yield 2.45 g, 77% | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
